US06541481B2
2-Chloro-N-{3-[4-(3-methyl4-phenoxy-phenylamino)-quinazolin-6-yl]-prop-2-ynyl}-acetamide
A solution of 2-Chloro-N-[3-(4-chloro-quinazolin-6-yl)-prop-2-ynyl]-acetamide (50 mg; 0.17mmol) and 3-methyl-4-phenoxyaniline (36 mg; 0.9 equiv.) in 1,2-dichloroethane (1 ml) and t-butanol (1 ml) was heated at 87° C. for 30 minutes. The mixture was then cooled to room temperature and diluted with ethyl acetate to further facilitate precipitation. The solution was then filtered to give the coupled product as a yellow powder (73 mg; 90%). 2.28 (3H, s), 4.10 (2H, s), 4.30 (2H, s), 6.93 (3H, d), 7.09 (1H, t), 7.34 (2H, t), 7.50-7.53 (1H, dd, J=2.6, 6 Hz), 7.63 (1H, d, J=2.4 Hz), 7.78 (I H, d, J=8 Hz), 8.06-8.08 (1H, dd, J=1.4, 7.2 Hz), 8.68 (1H, d, J=1.2 Hz), 8.75 (1H, s). Irms(M+): 457.0, 4.59.1; (M−): 455.7, 419.6

reactant | 2-Chloro-N-[3-(4-chloro-quinazolin-6-yl)-prop-2-ynyl]-acetamide | 0.17mmol, 50 mg | ClCC(=O)NCC#CC=1C=C2C(=NC=NC2=CC1)Cl | C13H9Cl2N3O
reactant | 3-methyl-4-phenoxyaniline | 36 mg, 0.9 equiv. | CC=1C=C(N)C=CC1OC1=CC=CC=C1 | C13H13NO
solvent | 1,2-dichloroethane | 1 ml | ClCCCl | C2H4Cl2
solvent | t-butanol | 1 ml | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-N-{3-[4-(3-methyl4-phenoxy-phenylamino)-quinazolin-6-yl]-prop-2-ynyl}-acetamide | 73 mg, 90% | ClCC(=O)NCC#CC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)OC1=CC=CC=C1)C | C26H21ClN4O2
